US05783674
In a similar manner, the chromophore DNP and β-alanine were coupled to Fmoc-Pro-Lac-pins prepared as described in Example 4. This was cleaved from the pin by reaction with 150 μl of a 50:50 mixture of saturated methylamine in ethanol and water at room temperature for 2.5 hrs to yield DNP-β Ala-Pro-NH-CH3. The solution was evaporated to dryness to remove excess methylamine. FIG. 9b is the HPLC analysis of the cleavage product and again demonstrates that it is of excellent purity.

reactant | β-alanine | NCCC(=O)O | C3H7NO2
reactant | Fmoc-Pro | N1([C@H](C(=O)O)CCC1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C20H19NO4
reactant | methylamine | CN | CH5N
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | Ala-Pro-NH-CH3 | N[C@@H](C)C(=O)N1[C@H](C(=O)NC)CCC1 | C9H17N3O2
